US06815447B2
2-Phenyl-quinoline-4,6-diamine, 0.5 grams (2.12 mmole) and 4-chloro-6-(4-fluorophenyl)pyrimidin-2-amine, 0.83 grams (4.25 mmole) were weighed directly into a reaction flask and 10 mL of dry N-methyl-2-pyrolidinone and 2 drops of concentrated hydrochloric acid was then added to the flask. The mixture was heated at 100° C. overnight under a nitrogen atmosphere. The mixture was cooled to room temperature and diluted with aqueous sodium hydroxide whereupon a dark brown solid precipitated. The solid was collected and dried under vacuum to yield 0.365 grams of N6-[2-amino-6-(4-fluorophenyl)pyrimidin-4-yl]-2-phenylquinoline-4,6-diamine (92% yield).

reactant | 2-Phenyl-quinoline-4,6-diamine | C1(=CC=CC=C1)C1=NC2=CC=C(C=C2C(=C1)N)N | C15H13N3
reactant | 4-chloro-6-(4-fluorophenyl)pyrimidin-2-amine | ClC1=NC(=NC(=C1)C1=CC=C(C=C1)F)N | C10H7ClFN3
reactant | N-methyl-2-pyrolidinone | 10 mL | CN1C(CCC1)=O | C5H9NO
catalyst | hydrochloric acid | 2 drops | Cl | ClH
solvent | sodium hydroxide | [OH-].[Na+]
product | N6-[2-amino-6-(4-fluorophenyl)pyrimidin-4-yl]-2-phenylquinoline-4,6-diamine | 0.365 grams, 92% yield | NC1=NC(=CC(=N1)NC=1C=C2C(=CC(=NC2=CC1)C1=CC=CC=C1)N)C1=CC=C(C=C1)F | C25H19FN6
